2113-03-05 07:24:00 Physician Resident Progress Note
Chief Complaint: hyperglycemia
   24 Hour Events:
 CALLED OUT
   -- seen by [**Last Name (un) 276**], SS adjusted
   -- insulin gtt d/c'd
   -- called out, awaiting bed
   -- sputum cx showing strep pneumonia, continued levo
   -- hypoglycemic to 60 overnight, given excessive carb bolus of multiple
   juices and cookies
   Allergies:
   Morphine
   Hives; itchy;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-3-4**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2113-3-4**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Eyes: No(t)  Blurry vision
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Orthopnea
   Respiratory: Cough, Dyspnea, Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Flowsheet Data as of  [**2113-3-5**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 85 (82 - 107) bpm
   BP: 119/63(76) {102/60(76) - 130/76(88)} mmHg
   RR: 12 (10 - 32) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72 kg (admission): 72.6 kg
   Height: 74 Inch
             Total In:
                                                                  5,710 mL
                                                                  2,194 mL
   PO:
                                                                  2,610 mL
                                                                  1,400 mL
   TF:
   IVF:
                                                                  3,100 mL
                                                                    794 mL
   Blood products:
   Total out:
                                                                  6,350 mL
                                                                  1,400 mL
   Urine:
                                                                  6,350 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -640 mL
                                                                    794 mL
   Respiratory support
   SpO2: 92%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion:
   Hyperresonant: ), (Breath Sounds: Wheezes : throughout)
   Abdominal: Soft, Bowel sounds present, Distended, Tender: RUQ
   tenderness
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): PPT, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   177 K/uL
   11.1 g/dL
   145 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.2 mEq/L
   15 mg/dL
   106 mEq/L
   138 mEq/L
   32.3 %
   9.7 K/uL
        [image002.jpg]
                             [**2113-3-4**]  04:54 AM
                             [**2113-3-4**]  12:47 PM
                             [**2113-3-4**]  05:30 PM
                             [**2113-3-5**]  06:10 AM
   WBC
   8.9
   12.2
   9.7
   Hct
   38.2
   35.4
   32.3
   Plt
   181
   182
   177
   Cr
   0.7
   0.7
   0.7
   0.7
   Glucose
   364
   232
   180
   145
   Other labs: PT / PTT / INR:12.4/29.6/1.0, ALT / AST:134/107, Alk Phos /
   T Bili:116/0.6, Albumin:3.4 g/dL, LDH:135 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.6 mg/dL
   Microbiology: Sputum Cx:  GRAM STAIN (Final [**2113-3-3**]):
         >25 PMNs and <10 epithelial cells/100X field.
         4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS IN CHAINS.
         1+    (<1 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
      RESPIRATORY CULTURE (Preliminary):
         SPARSE GROWTH OROPHARYNGEAL FLORA.
         STREPTOCOCCUS PNEUMONIAE.    MODERATE GROWTH.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
   Assessment and Plan
   40 y/o M with alpha 1 antitrypsin dz, COPD, hepatitis C, cirrhosis and
   DM I admitted with c/o SOB, cough with sputum production &
   hyperglycemia.
   .
   #Hyperglycemia: Pt with history of brittle type I & labile blood
   sugars. BS have been running high this week, likely [**2-4**] URI & fevers.
   Pt presented with BS of 278 & gap of 12. Pt received IV solumedrol & BS
   rose to 550 with Gap of 15.  Urine was positive for ketones & glucose.
   Serum acetone pending.  Pt is high risk for developping DKA and BS not
   controlled all day in [**Last Name (LF) **], [**First Name3 (LF) 178**] treat aggressively to prevent widening
   gap acidosis.
   - patinet taking adequate PO, encouage fluid intake
   - electroyltes, including K+ and anion-gap gap, have been normal and
   stable
   - patient has been off insulin gtt for over 12 hrs, FS<300 since then.
   After excessive carb intake overnight w/ hypoglycemia, patient will
   high BS this am.  Will cover this hyperglycemia w/ additional humalog,
   but do not feel that it is necessary to adjust SS at this time.
   Patient has been seeny by [**Last Name (un) 276**], and SS may need further adjustment as
   patient remains on  steroid taper.  Appreciate there recs
   - diabetic diet as tolerated
   .
   #Cough/SOB: Pt with h/o alpha 1 antitrypsin defic & assoc COPD who p/w
   SOB, cough with sputum production but no infiltrate on CXR.  Denies
   muscle aches, low suspician for flu.  Diff dx includes viral URI,
   bronchitis, atypical PNA. TB unlikely given acute onset of symptoms,
   neg CXR & absence of hemoptysis and other diagnosis more likely. Pt
   received Solumedrol, Levofloxacin & Duonebs in ED. Pt comfortable,
   sating well on RA, [**Month (only) 38**] BS likely due to emphysema/COPD, scattered
   wheezes anteriorly but moving air well. Sputum culture showing strep
   pneumonia, will send blood Cx if spikes.
   - Prednisone 20mg in am, plan for quick taper
   - Albuterol q4hrs & q6hr Ipratroprium nebs
   - continue Advair [**Hospital1 **] & Flonase
   - Guaifenesin/Codeine prn
   - continue Levofloxacin 750mg daily [**3-8**], assume that strep pneumonia
   not resistant, so will f/u cx sensitivities.
       - patient also now reports hx of +PPD.  CXR negative for evidence
   of tuberculosis infection.  Patient should have visit of INH treated
   adjust as outpatient by his pulmonologist.
   .
   # Hepatitis C: Pt with active Hep C, last VL 29 400 in [**11-10**] followed
   by GI at [**Hospital1 183**], ongoing discussion regarding initiation of interferon
   therapy, currently untreated. Pt c/o RUQ tenderness on exam, negative
   murphys sign.  Mild transaminitis likely due to underlying liver
   disease, no e/o cholestasis, LFTs stable [**Last Name (un) 1330**].
   - trend LFTs daily & consider RUQ U/S if alk phos/T bili become
   elevated
   .
   # Thrush: Pt with chronic thrush followed by ENT, has white plaques
   scattered over oropharynx on exam and precervical LN.  Given h/o IVDU
   and recurrent thrush, would offer HIV screening to patient.
   - continue nystatin swish and swallow
   - clotrimazole troches QID
   - not currently worsened on steroid course.
   .
   # Depression/Panic disorder: Pt denying any current SI/HI, also denies
   substance abuse since [**7-10**].
   - continue amitriptyline, citalopram, and risperidone
   .
   # Chronic pain: managed by pain clinic
   - continued on home regimen of amitriptyline, citalopram, gabapentin,
   oxycodone, and methadone.
   .
   # Hypothyroidism: continued home Synthroid 100mcg daily
   .
   # GERD: stable, continue home regimen PPI [**Hospital1 **]
   .
   # FEN: Diabetic diet, encourage PO intake, IVF not necessary as AG has
   glosed
   ICU Care
   Nutrition:
   Comments: Diabetic Diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2113-3-4**] 02:45 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2113-03-05 11:32:00 Physician Attending Progress Note
Chief Complaint: hyperglycemi/ mild DKA, sob
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   40 with alpha-1 antirypsin def,  dm1, hep c cirrhosis, presents with
   copd flare/bronchitis and hyperglycemia in setting of infection and
   steroids.
   24 Hour Events:
 CALLED OUT and awaiting floor bed
   transitioned off drip insulin, [**Last Name (un) 276**] c/s appreciated, bs elevated this
   am in 300's
   sputum with strep pneumo--continuing levoflox--i/d input appreciated
   History obtained from Patient, hosue staff
   Allergies:
   Morphine
   Hives; itchy;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-3-4**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2113-3-4**] 10:00 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-3-5**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.9
C (96.7
   HR: 87 (82 - 107) bpm
   BP: 119/63(76) {110/60(76) - 130/76(88)} mmHg
   RR: 10 (10 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72 kg (admission): 72.6 kg
   Height: 74 Inch
             Total In:
                                                                  5,710 mL
                                                                  2,880 mL
   PO:
                                                                  2,610 mL
                                                                  1,880 mL
   TF:
   IVF:
                                                                  3,100 mL
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                  6,350 mL
                                                                  2,100 mL
   Urine:
                                                                  6,350 mL
                                                                  2,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -640 mL
                                                                    780 mL
   Respiratory support
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Wheezes : exp, anteriorly > post, Diminished: decreased airmovement),
   distant
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender: mild
   ruq, stable, no r/g
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.1 g/dL
   177 K/uL
   145 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.2 mEq/L
   15 mg/dL
   106 mEq/L
   138 mEq/L
   32.3 %
   9.7 K/uL
        [image002.jpg]
                             [**2113-3-4**]  04:54 AM
                             [**2113-3-4**]  12:47 PM
                             [**2113-3-4**]  05:30 PM
                             [**2113-3-5**]  06:10 AM
   WBC
   8.9
   12.2
   9.7
   Hct
   38.2
   35.4
   32.3
   Plt
   181
   182
   177
   Cr
   0.7
   0.7
   0.7
   0.7
   Glucose
   364
   232
   180
   145
   Other labs: PT / PTT / INR:12.4/29.6/1.0, ALT / AST:134/107, Alk Phos /
   T Bili:116/0.6, Albumin:3.4 g/dL, LDH:135 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.6 mg/dL
   Imaging: no new imaging
   Microbiology: sputum granm stain with gpc, sparce gnr
   sputum cx-strep pneumo
   no blood cx
   Assessment and Plan
   40 yo M with alpha-1 antirypsin def,  dm1,  hep c cirrhosis,  presents
   with copd flare/bronchitis and hyperglycemia in setting of infection
   and steroids.
   Mild DKA on admit with gap15 with quick closure after ivf
s and
   insulin,  improving blood sugar control off drip.  Elevated after
   breakfast and snack overnight--and adjusting sliding scale and
   continuing home lantus dose. Po diet.   Will monitor in icu for next
   checks and then stable for floor transfer.  BS control should improve
   further with tapering of steroids.
   Continue treatment of copd/bronchitis tapering prednisone, continuing
   advair, flonase, and nebs.  Although no focal infiltrate given length
   of symptoms of cough and sputum (+ strep pneumo) would complete  course
   of levoflox for bronchitis.  Mild leukocytosis (steroids verses
   infection) now normalized.
   Has mild RUQ pain on exam which appears chronic with stable lft
s and
   no evidence of congestive picture to suggest indication fro RUQ
   ultrasound  at this time.
   Continuing treatment of thrush with nystatin, may be further
   exacerbated by steroids, with outpt ent f/u.
   Continue psych and pain medications.
   Has been walking/oob.
   Evaluate as outpt issue of + ppd and ? treament of latent tb infection.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Comments: lantus
   Lines:
   18 Gauge - [**2113-3-4**] 02:45 AM
   Prophylaxis:
   DVT: SQ UF Heparin(walking)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor once bs stable
   Total time spent: 35 minutes

2113-03-06 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - SSI increased [**First Name8 (NamePattern2) **] [**Last Name (un) 276**] rec's
   - blood sugars persistently elevated to high 200s
   Pt doing well, SOB improved & [**Month (only) 38**] cough. Ambulating well, still some
   DOE, not quite back to baseline.
   Working on BS control
   Allergies:
   Morphine
   Hives; itchy;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-3-6**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 85 (85 - 110) bpm
   BP: 127/86(96) {110/60(83) - 129/86(96)} mmHg
   RR: 12 (10 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72 kg (admission): 72.6 kg
   Height: 74 Inch
                  Total In:
                                                                  4,440 mL
                  PO:
                                                                  3,440 mL
                  TF:
   IVF:
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                  5,350 mL
                                                                  1,725 mL
   Urine:
                                                                  5,350 mL
                                                                  1,725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -910 mL
                                                                 -1,725 mL
   Respiratory support
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   GEN: NAD/ comfortable
   CV: RRR no m/r/g
   RESP: CTAB occais crackle at RLL base, no w/r
   Abd: soft, NABS, mild TTP over RUQ, and left lateral chest wall
   EXTR: no c/c/e
   Labs / Radiology
   187 K/uL
   12.0 g/dL
   147 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.2 mEq/L
   11 mg/dL
   100 mEq/L
   136 mEq/L
   35.4 %
   7.4 K/uL
        [image002.jpg]
                             [**2113-3-4**]  04:54 AM
                             [**2113-3-4**]  12:47 PM
                             [**2113-3-4**]  05:30 PM
                             [**2113-3-5**]  06:10 AM
                             [**2113-3-6**]  04:01 AM
   WBC
   8.9
   12.2
   9.7
   7.4
   Hct
   38.2
   35.4
   32.3
   35.4
   Plt
   181
   182
   177
   187
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   Glucose
   364
   232
   180
   145
   147
   Other labs: PT / PTT / INR:12.4/29.6/1.0, ALT / AST:134/107, Alk Phos /
   T Bili:116/0.6, Albumin:3.4 g/dL, LDH:135 IU/L, Ca++:9.4 mg/dL,
   Mg++:1.4 mg/dL, PO4:3.1 mg/dL
   Microbiology:   GRAM STAIN (Final [**2113-3-3**]):
         >25 PMNs and <10 epithelial cells/100X field.
         4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS IN CHAINS.
         1+    (<1 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
      RESPIRATORY CULTURE (Preliminary): SPARSE GROWTH OROPHARYNGEAL
   FLORA.
         STREPTOCOCCUS PNEUMONIAE.    MODERATE GROWTH.
            Possible penicillin resistance by oxacillin screen.
            Resistance to be confirmed by MIC testing.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
   Assessment and Plan
   40 y/o M with alpha 1 antitrypsin dz, COPD, hepatitis C, cirrhosis and
   DM I admitted with c/o SOB, cough with sputum production &
   hyperglycemia.
   .
   #Hyperglycemia: Pt with history of brittle type I & labile blood
   sugars. BS have been running high this week, likely [**2-4**] URI & fevers.
   Pt presented with BS of 278 & gap of 12. Pt received IV solumedrol & BS
   rose to 550 with Gap of 15.  Urine was positive for ketones & glucose.
   Serum acetone elevated on admission, but no anion gap.  Electrolytes,
   including K+ and anion-gap gap, have been normal and stable since adm
   - patinet taking adequate PO, encouage fluid intake
   - patient has been off insulin gtt for over 48hrs, FS<300 since then.
   - [**First Name9 (NamePattern2) **] [**Last Name (un) 276**] recs for glycemic control, increased lantus/ISS
   yesterday
   - diabetic diet as tolerated
   .
   #Cough/SOB: Pt with h/o alpha 1 antitrypsin defic & assoc COPD who p/w
   SOB, cough with sputum production but no infiltrate on CXR.  Denies
   muscle aches, low suspician for flu.  Diff dx includes viral URI,
   bronchitis, atypical PNA. TB unlikely given acute onset of symptoms,
   neg CXR & absence of hemoptysis and other diagnosis more likely. Pt
   received Solumedrol, Levofloxacin & Duonebs in ED. Pt comfortable,
   sating well on RA, [**Month (only) 38**] BS likely due to emphysema/COPD, scattered
   wheezes anteriorly but moving air well. Sputum culture showing strep
   pneumonia, will send blood Cx if spikes.
   - Prednisone 20mg in am, plan for quick taper
   - Albuterol q4hrs & q6hr Ipratroprium nebs
   - continue Advair [**Hospital1 **] & Flonase
   - Guaifenesin/Codeine prn
   - continue Levofloxacin 750mg daily [**4-8**], assume that strep pneumonia
   not resistant, so will f/u cx sensitivities.
   - patient also now reports hx of +PPD.  CXR negative for evidence of
   tuberculosis infection.  ? unclear if INH treated, will touch base with
   outpt pulmonologist.
   .
   # Hepatitis C: Pt with active Hep C, last VL 29 400 in [**11-10**] followed
   by GI at [**Hospital1 183**], ongoing discussion regarding initiation of interferon
   therapy, currently untreated. Pt c/o RUQ tenderness on exam, negative
   murphys sign.  Mild transaminitis likely due to underlying liver
   disease, no e/o cholestasis, LFTs stable on adm
   - consider RUQ U/S if pain worsens or alk phos/T bili become elevated
   .
   # Thrush: Pt with chronic thrush followed by ENT, has white plaques
   scattered over oropharynx on exam and precervical LN.  Given h/o IVDU
   and recurrent thrush, would offer HIV screening to patient.
   - continue nystatin swish and swallow
   - clotrimazole troches QID
   - not currently worsened on steroid course.
   .
   # Depression/Panic disorder: Pt denying any current SI/HI, also denies
   substance abuse since [**7-10**].
   - continue amitriptyline, citalopram, and risperidone
   .
   # Chronic pain: managed by pain clinic
   - continued on home regimen of amitriptyline, citalopram, gabapentin,
   oxycodone, and methadone.
   .
   # Hypothyroidism: continued home Synthroid 100mcg daily
   .
   # GERD: stable, continue home regimen PPI [**Hospital1 **]
   .
   # FEN: Diabetic diet, encourage PO intake, IVF not necessary as AG has
   glosed
   ICU Care
   Nutrition:  Diabetic Diet
   Glycemic Control:  ISS & glargine 23u qhs
   Lines:
   18 Gauge - [**2113-3-4**] 02:45 AM
   Prophylaxis:
   DVT: Heparin sc TID
   Stress ulcer:  PPI
   Communication:  Comments:
   Code status: Full code
   Disposition: out to floor today

2113-03-06 13:48:00 Physician Attending Progress Note
Chief Complaint: copd flare and hyperglycemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  40 yo M with alpha-1 antirypsin def,  dm1,  hep c cirrhosis,
   presents with copd flare/bronchitis and hyperglycemia in setting of
   infection and steroids.
   24 Hour Events:
   continued problems with hyperglycemia so remains in ICU
   History obtained from Patient, house staff
   Allergies:
   Morphine
   Hives; itchy;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (continued)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-3-6**] 01:47 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.2
C (97.2
   HR: 96 (85 - 110) bpm
   BP: 122/79(90) {119/70(83) - 129/86(96)} mmHg
   RR: 13 (10 - 36) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72 kg (admission): 72.6 kg
   Height: 74 Inch
                  Total In:
                                                                  4,440 mL
                                                                    400 mL
   PO:
                                                                  3,440 mL
                                                                    400 mL
   TF:
   IVF:
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                  5,350 mL
                                                                  2,725 mL
   Urine:
                                                                  5,350 mL
                                                                  2,725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -910 mL
                                                                 -2,325 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   Thin male, pleasant in NAD
   Thrush
   Improved airmovement and decreased wheeze
   RR without murmur appreciated
   Mild RUQ tenderness, mild distension but soft, no r/g, + BS
   Peripheral Vascular: (Right radial pulse:present), (Left radial
   pulse:present), (Right DP pulse: present(Left DP pulse: present)
   Skin:  without rash
   Neurologic: alert and appropriate, nonfocal exam
   Labs / Radiology
   12.0 g/dL
   187 K/uL
   147 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.2 mEq/L
   11 mg/dL
   100 mEq/L
   136 mEq/L
   35.4 %
   7.4 K/uL
        [image002.jpg]
                             [**2113-3-4**]  04:54 AM
                             [**2113-3-4**]  12:47 PM
                             [**2113-3-4**]  05:30 PM
                             [**2113-3-5**]  06:10 AM
                             [**2113-3-6**]  04:01 AM
   WBC
   8.9
   12.2
   9.7
   7.4
   Hct
   38.2
   35.4
   32.3
   35.4
   Plt
   181
   182
   177
   187
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   Glucose
   364
   232
   180
   145
   147
   Other labs: PT / PTT / INR:12.4/29.6/1.0, ALT / AST:129/123, Alk Phos /
   T Bili:118/0.2, Albumin:3.4 g/dL, LDH:164 IU/L, Ca++:9.4 mg/dL,
   Mg++:1.4 mg/dL, PO4:3.1 mg/dL
   Imaging: no new imaging
   Microbiology: no new data
   strep pneumo on sputum cx
   Assessment and Plan
   40 yo M with alpha-1 anti trypsin def,  dm1,  hep c cirrhosis,
   presents with copd flare/bronchitis and hyperglycemia in setting of
   infection and steroids.
   #Mild (? DKA) hyperglcyemia on admission with gap 15 with quick closure
   after ivf
s and insulin drip--blood sugars remain difficult to control,
   w/ ongoing steroids.  Sugars escalated after eating--recheck and if
   unable to control will restart drip.  F/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 276**] regarding additional
   recs and possible benefit of switching to  nph verses continuing lantus
   while on steroids, though we are tapering steroids and should see some
   additional improvement in blood sugar control in that setting.
   -Continue treatment of copd/bronchitis-- tapering prednisone,
   continuing advair, flonase, and nebs.  Although no focal infiltrate
   given length of symptoms/cough and sputum (+ strep pneumo) would
   complete course of levoflox for bronchitis (day [**3-8**]).  Mild
   leukocytosis on admit (steroids verses infection) now normalized.
   --Has mild RUQ pain on exam which appears chronic with hx of hep c and
   alpha 1-- initial stable lft
s and no evidence of congestive picture to
   suggest indication fro RUQ ultrasound.  Will recheck  lft's. Pt
   follows with GI at [**Hospital1 183**].
   --Continuing treatment of thrush with nystatin, may be further
   exacerbated by steroids, with outpt ent f/u.
   Continue psych and pain medications.   Home synthroid.
   Has been walking/oob.
   Evaluate as outpt issue of + ppd and ? treayment of latent tb
   infection.
   ICU Care
   Nutrition: diabetic diet
   Glycemic Control:  Regular insulin sliding scale
   Comments: will restart insulin ggt if no improvement with ssi
   adjustment
   Lines:
   18 Gauge - [**2113-3-4**] 02:45 AM
   Prophylaxis:
   DVT: SQ UF Heparin (walking, oob)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2113-03-07 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   - SSI & Lantus increased [**First Name8 (NamePattern2) **] [**Last Name (un) 276**] rec's
   - blood sugars persistently elevated to high 400s
   History obtained from Patient
   Allergies:
   History obtained from PatientMorphine
   Hives; itchy;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-3-6**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Weight loss
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: breathing improved
   Gastrointestinal: Abdominal pain, No(t) Emesis
   Endocrine: Hyperglycemia, History of thyroid disease
   Flowsheet Data as of  [**2113-3-7**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.2
C (97.2
   HR: 77 (77 - 113) bpm
   BP: 113/75(85) {113/75(85) - 136/91(102)} mmHg
   RR: 17 (8 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72 kg (admission): 72.6 kg
   Height: 74 Inch
                  Total In:
                                                                  2,370 mL
                  PO:
                                                                  2,320 mL
                  TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  5,025 mL
                                                                    650 mL
   Urine:
                                                                  5,025 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,655 mL
                                                                   -650 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: at bases)
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender: TUQ
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   187 K/uL
   12.0 g/dL
   147 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.2 mEq/L
   11 mg/dL
   100 mEq/L
   136 mEq/L
   35.4 %
   7.4 K/uL
        [image002.jpg]
                             [**2113-3-4**]  04:54 AM
                             [**2113-3-4**]  12:47 PM
                             [**2113-3-4**]  05:30 PM
                             [**2113-3-5**]  06:10 AM
                             [**2113-3-6**]  04:01 AM
   WBC
   8.9
   12.2
   9.7
   7.4
   Hct
   38.2
   35.4
   32.3
   35.4
   Plt
   181
   182
   177
   187
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   Glucose
   364
   232
   180
   145
   147
   Other labs: PT / PTT / INR:12.4/29.6/1.0, ALT / AST:129/123, Alk Phos /
   T Bili:118/0.2, Albumin:3.4 g/dL, LDH:164 IU/L, Ca++:9.4 mg/dL,
   Mg++:1.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   40 y/o M with alpha 1 antitrypsin dz, COPD, hepatitis C, cirrhosis and
   DM I admitted with c/o SOB, cough with sputum production &
   hyperglycemia.
   .
   #Hyperglycemia: Pt with history of brittle type I & labile blood
   sugars. BS had been running high during the week PTA, likely [**2-4**] URI &
   fevers.  Pt presented with BS of 278 & gap of 12. Pt received IV
   solumedrol & BS rose to 550 with Gap of 15.  Urine was positive for
   ketones & glucose. Serum acetone elev on adm, but no anion gap.  Pt
   initially treated with Insulin gtt on [**2113-3-4**] and weaned quickly.  BS
   have been erratic & difficult to control.  Fasting am BS 170s, then 500
   post lunch.
   - [**First Name9 (NamePattern2) **] [**Last Name (un) 276**] recs for glycemic control, increased lantus & sliding
   scale coverage throughout day
   - no need for insulin gtt currently [**First Name8 (NamePattern2) **] [**Last Name (un) 276**]
   - diabetic diet as tolerated
   .
   #Cough/SOB: Pt with h/o alpha 1 anti-trypsin deficiency & assoc COPD
   who p/w SOB, cough with sputum production but no infiltrate on CXR.
   Sputum Cx + for strep pneumo sensitive to Levofloxacin, unclear if true
   infection vs colonization. Pt received Solumedrol IV with nebs in ED
   and had symptom improvemt.  Pt has been on rapid prednisone taper.
   Currently sating well on RA, no wheezes.  Ambulating well, minimal DOE.
   - last dose of Prednisone 20mg in am
   - Albuterol q4hrs & q6hr Ipratroprium nebs
   - continue Advair [**Hospital1 **] & Flonase
   - Guaifenesin/Codeine prn
   - continue Levofloxacin 750mg daily [**4-8**]
   - hx of +PPD.  CXR neg for e/o tuberculosis infection.  Apparently has
   never been INH treated likely due to underlying liver disease, defer to
   outpt pulmonologist.
   .
   # Hepatitis C: Pt with active Hep C, last VL 29 400 in [**11-10**] followed
   by GI at [**Hospital1 183**], ongoing discussion regarding initiation of interferon
   therapy, currently untreated. Pt chronic RUQ tenderness, neg murphys
   sign.  Mild transaminitis likely due to underlying liver disease, no
   e/o cholestasis, LFTs stable.
   - consider RUQ U/S if pain worsens or alk phos/T bili become elevated
   .
   # Thrush: Pt with chronic thrush followed by ENT, has white plaques
   scattered over oropharynx on exam and precervical LN.  Given h/o IVDU
   and recurrent thrush, would offer HIV screening to patient.
   - continue nystatin swish and swallow
   - clotrimazole troches QID
   - not currently worsened on steroid course.
   .
   # Depression/Panic disorder: Pt denying any current SI/HI, also denies
   substance abuse since [**7-10**].
   - continue amitriptyline, citalopram, and risperidone
   .
   # Chronic pain: managed by pain clinic
   - continued on home regimen of amitriptyline, citalopram, gabapentin,
   oxycodone, and methadone.
   .
   # Hypothyroidism: continued home Synthroid 100mcg daily
   .
   # GERD: stable, continue home regimen PPI [**Hospital1 **]
   .
   # FEN: Diabetic diet
   ICU Care
   Nutrition:  Diabetic Diet
   Glycemic Control:  ISS & Glargine
   Lines:
   18 Gauge - [**2113-3-4**] 02:45 AM
   Prophylaxis:
   DVT: Heparin sc TID
   Stress ulcer:  PPI
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2113-3-4**] 02:45 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:Transfer to floor

2113-03-07 12:25:00 Physician Attending Progress Note
Chief Complaint: hyperglycemia, copd flare
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 40 yo M with alpha-1 anti trypsin def,  dm1,  hep c cirrhosis,
   with resolving copd flare/bronchitis and hyperglycemia in setting of
   infection and steroids.
   24 Hour Events:
   [**Last Name (un) 276**] c/s, adjusting lantus and ssi
   History obtained from Patient, house staff
   Allergies:
   Morphine
   Hives; itchy;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-3-6**] 10:00 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-3-7**] 12:25 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 112 (77 - 129) bpm
   BP: 121/74(85) {105/74(82) - 136/93(102)} mmHg
   RR: 15 (8 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72 kg (admission): 72.6 kg
   Height: 74 Inch
                  Total In:
                                                                  2,370 mL
                                                                    400 mL
   PO:
                                                                  2,320 mL
                                                                    400 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  5,025 mL
                                                                  2,100 mL
   Urine:
                                                                  5,025 mL
                                                                  2,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,655 mL
                                                                 -1,700 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Diminished: throughout, No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Obese
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, Tone:
   normal
   Labs / Radiology
   13.6 g/dL
   263 K/uL
   176 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.8 mEq/L
   16 mg/dL
   95 mEq/L
   133 mEq/L
   39.6 %
   10.1 K/uL
        [image002.jpg]
                             [**2113-3-4**]  04:54 AM
                             [**2113-3-4**]  12:47 PM
                             [**2113-3-4**]  05:30 PM
                             [**2113-3-5**]  06:10 AM
                             [**2113-3-6**]  04:01 AM
                             [**2113-3-7**]  08:21 AM
   WBC
   8.9
   12.2
   9.7
   7.4
   10.1
   Hct
   38.2
   35.4
   32.3
   35.4
   39.6
   Plt
   181
   182
   177
   187
   263
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.8
   Glucose
   364
   232
   180
   145
   147
   176
   Other labs: PT / PTT / INR:12.4/29.6/1.0, ALT / AST:152/129, Alk Phos /
   T Bili:121/0.3 (0.2), Albumin:3.4 g/dL, LDH:170 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.8 mg/dL
   Imaging: no new imaging
   Microbiology: neg u/a
   Assessment and Plan
   40 yo M with alpha-1 anti trypsin def,  dm1,  hep c cirrhosis,   with
   resolving copd flare/bronchitis and hyperglycemia in setting of
   infection and steroids.
   # Hyperglcyemia--continued to have labile BS in setting of steroids
   yesterday.  Improved now with further adjustments to lantus and ssi.
   Stopping prednisone today which should help further.  Monitor
   closely
as may need to reduce scale in setting of discontinaution of
   steroids.
   # Bronchitis-- Stop prednisone today, continuing advair, flonase, and
   mdi's.  Although no focal infiltrate given length of symptoms/cough and
   sputum (+ strep pneumo) completing course of levoflox for bronchitis
   (day [**5-8**]).  Mild leukocytosis on admit (steroids verses infection)
   resolved and remains normal
   # Has mild RUQ pain on exam which appears chronic with hx of hep c and
   alpha 1-- initial stable lft
s and no evidence of congestive picture to
   suggest indication fro RUQ ultrasound.  LFT's essentially stable upong
   recheck. Pt  follows with GI at [**Hospital1 183**].
   # Continuing treatment of thrush with nystatin, may be further
   exacerbated by steroids, with outpt ent f/u.
   Continue psych and pain medications.   Home synthroid dosing.
   Has been walking/oob.
   Evaluate as outpt for issue of + ppd and ? treayment of latent tb
   infection.
   ICU Care
   Nutrition:
   Comments: diabetic diet
   Glycemic Control:  Regular insulin sliding scale, Comments: lantus
   Lines:
   18 Gauge - [**2113-3-4**] 02:45 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: walking)
   Stress ulcer:
   VAP: Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes